US05707987
(2S,4R)-N-t-Butoxycarbonyl-4-t-butyldimethylsiloxy-2-[hydroxy(4-hydroxymethyl-1-naphthyl)methyl]pyrrolidine (2.71 g, yield: 44.0%) was prepared as a colorless oily substance from (2S,4R)-N-t-butoxycarbonyl-4-(t-butyldimethylsiloxy)prolinal (4.17 g, 12.7 mmol), 4-hydroxymethyl-1-bromonaphthalene (3 g, 12.7 mmol) and 1.6M n-butyl lithium-hexane solution (20.6 ml, 39.9 mmol), in the same manner as in Reference Example 111-1.

reactant | (2S,4R)-N-t-butoxycarbonyl-4-(t-butyldimethylsiloxy)prolinal | 12.7 mmol, 4.17 g | C(C)(C)(C)OC(=O)N1[C@H](C=O)C[C@H](C1)O[Si](C)(C)C(C)(C)C | C16H31NO4Si
reactant | 4-hydroxymethyl-1-bromonaphthalene | 12.7 mmol, 3 g | OCC1=CC=C(C2=CC=CC=C12)Br | C11H9BrO
product | (2S,4R)-N-t-Butoxycarbonyl-4-t-butyldimethylsiloxy-2-[hydroxy(4-hydroxymethyl-1-naphthyl)methyl]pyrrolidine | 2.71 g, yield: 44.0% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(C1=CC=C(C2=CC=CC=C12)CO)O | C27H41NO5Si
